US04920120
7-(3-Amino-1-pyrrolidinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid
A mixture of 0.36 g (1.25 mmol) of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid, 0.26 g (1.39 mmol) of 3-(t-butoxycarbonyl)aminopyrrolidine, 0.38 g (3.76 mmol) of triethylamine, and 20 ml of acetonitrile was refluxed for five hours, then stirred at room temperature overnight. The solids were filtered and washed with acetonitrile and ether. The crude product was dissolved in 5 ml of 6N hydrochloric acid and 5 ml of glacial acetic acid and stirred for five hours at room temperature. The solution was concentrated to a solid which was suspended in water, made basic (pH 12), filtered through a fiberglass pad, and neutralized (pH 6.8). The solids were filtered and washed with water to give 0.32 g of white solid, mp 218°-220° C.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 1.25 mmol, 0.36 g | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C13H10F3NO3
reactant | 3-(t-butoxycarbonyl)aminopyrrolidine | 1.39 mmol, 0.26 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | triethylamine | 3.76 mmol, 0.38 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-(3-Amino-1-pyrrolidinyl)-1-ethyl-6,8-difluoro-1,4-dihydro-5-methyl-4-oxo-3-quinolinecarboxylic acid | 0.32 g | NC1CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)C)F | C17H19F2N3O3
